US04085210
To a suspension of lithium aluminum hydride (0.05 g) in anhydrous tetrahydrofuran (7 ml) was added a solution of 5-(4-benzyl-5-oxomorpholin-2-yl)methylidene-10,11-dihydro-5H-dibenzo[a,d]cycloheptene (0.55 g) in anhydrous tetrahydrofuran (15 ml) under ice-cooling, and the resulting mixture was stirred at room temperature for one hour and refluxed with stirring for 7 hours. The reaction mixture was cooled, admixed with water and extracted with ether. The ether extract was dried over anhydrous sodium sulfate and evaporated to afford 5-(4-benzylmorpholin-2-yl)methylidene-10,11-dihydro-5H-dibenzo[a,d]cycloheptene as oily material. M.P., 209° - 210° C (decomp.) (oxalate).

reactant | lithium aluminum hydride | 0.05 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 5-(4-benzyl-5-oxomorpholin-2-yl)methylidene-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 0.55 g | C(C1=CC=CC=C1)N1CC(OCC1=O)C=C1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C27H25NO2
reactant | water | O | H2O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 5-(4-benzylmorpholin-2-yl)methylidene-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | C(C1=CC=CC=C1)N1CC(OCC1)C=C1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C27H27NO
